* C:\Users\nicola\Documents\git\AnalogSynth\EG\EG.asc
XU1 N004 N001 VCC VSS N001 LT1001
C1 N004 0 1µF
R1 N004 N003 10k
D1 N005 N002 D
V1 N002 0 PULSE(0 5 0 0 0 200mS 300mS 1)
V2 VCC 0 15
V3 0 VSS 15
XU2 N010 N001 VCC VSS N008 LT1001
V4 N010 0 4
XU3 N007 N006 VCC VSS OUT LT1001
R2 N006 0 10k
R3 OUT N006 10k
D5 N009 N008 D
R10 N007 N011 60k
R11 N007 N001 10k
D2 N002 N003 D
R4 N004 N005 4k
R5 N011 N009 6k
C2 N011 0 1µF
D3 0 OUT D
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 250mS
.lib LTC.lib
.backanno
.end
